US08242125B2
5-Trifluoromethyl-pyridin-3-ylamine
A mixture of 2-chloro-5-nitro-3-trifluoromethyl-pyridine (30 mg, 0.13 mmol), 10% Pd/C (3 mg, 10% w/w), and MeOH (5 mL) is stirred under 1 atm of hydrogen for 3 h. The mixture is then filtered over Celite® and concentrated in vacuo to give the title compound as an oil. MS (ESI) m/z 162.9 (M+1).

reactant | 2-chloro-5-nitro-3-trifluoromethyl-pyridine | 0.13 mmol, 30 mg | ClC1=NC=C(C=C1C(F)(F)F)[N+](=O)[O-] | C6H2ClF3N2O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 3 mg | [Pd] | Pd
solvent | MeOH | 5 mL | CO | CH4O
product | 5-Trifluoromethyl-pyridin-3-ylamine | FC(C=1C=C(C=NC1)N)(F)F | C6H5F3N2
